data/mechanism_extracts/ChemCommun/10.1039_D5CC03812J_sup_1.json
{"doi": "10.1039_D5CC03812J_sup_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Photoelectrochemical radical tandem cyclization of N-aryl acrylamides with alkyl bromides using (TMS)3SiOH as halogen-atom transfer (XAT) reagent to access 3,3-disubstituted oxindoles bearing a CF3 group.", "mechanism_family": ["photoredox_combined", "radical_anodic"], "electrochemical_role": "Anodic oxidation regenerates the excited-state photocatalyst (PQ); the photocatalyst oxidizes (TMS)3SiOH to (TMS)3SiO•, which rearranges to a silyl radical (TMS)2(TMSO)Si• that performs XAT on the alkyl bromide to generate the key alkyl radical.", "key_intermediates": [{"name": "(TMS)3SiO• (silanol-derived O-radical)", "smiles": null, "role": "transient"}, {"name": "(TMS)2(TMSO)Si• (rearranged silyl radical, XAT reagent)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical (from R-Br via XAT)", "smiles": null, "role": "reactive"}, {"name": "carbon radical after addition to acrylamide alkene", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical from intramolecular aryl cyclization", "smiles": null, "role": "transient"}, {"name": "TEMPO–CH2CH2OH adduct 61", "smiles": "OCCON1C(C)(C)CCCC1(C)C", "role": "off_pathway"}, {"name": "silyl-trapped oxindole 67 (in absence of R-Br)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Visible-light-excited PQ* oxidizes (TMS)3SiOH to give (TMS)3SiO•, which rearranges to a silyl radical that abstracts Br from R-Br (XAT) to generate an alkyl radical; this radical adds to the acrylamide alkene, the resulting C-radical cyclizes onto the arene, and rearomatization/oxidation delivers the oxindole while the reduced PQ is reoxidized at the anode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely inhibited; TEMPO–(2-hydroxyethyl) adduct 61 (C11H24NO2+, m/z 202.1803) detected by HRMS, indicating intermediacy of the alkyl radical derived from 2-bromoethanol."}, {"name": "(bromomethyl)cyclopropane (63)", "smiles": "BrCC1CC1", "purpose": "radical_clock", "observation": "Ring-opened cyclization product 64 obtained in 48% yield, confirming a freely diffusing alkyl radical."}, {"name": "6-bromohex-1-ene (65)", "smiles": "BrCCCCC=C", "purpose": "radical_clock", "observation": "Radical dicyclization product 66 (with cyclopentylmethyl pendant) obtained in 51% yield, consistent with 5-exo-trig cyclization of the hexenyl radical."}, {"name": "(TMS)3SiOH (no R-Br control)", "smiles": null, "purpose": "intermediate_trap", "observation": "In the absence of alkyl bromide, silyl-incorporated oxindole 67 was isolated in 37% yield, supporting formation of (TMS)3SiO• and its rearrangement to a silyl radical that adds to the acrylamide."}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "intermediate_trap_other", "isolation_of_intermediate", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "The silyl-trapping experiment in the absence of R-Br (product 67) is key evidence for the proposed Brook-type rearrangement of (TMS)3SiO• to (TMS)2(TMSO)Si• as the active XAT reagent. No DFT, CV, or KIE data presented on these pages."}
